Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Headache and back pain
 
Major Surgical or Invasive Procedure:
Lumbar Puncture ___

 
History of Present Illness:
Patient is a ___ F with history of migraines and depression on 
Lexapro who presents with back pain, nausea, neck pain. She 
reports that 3 days ago she developed a headache that woke her 
up in the morning and she describes it as the worst headache 
that
she has had. It was bilateral but worse on the right and 
radiated down both sides of her neck. Over the last 2 days, it 
has progressed to involve her entire back worse in the left 
lumbar paraspinal area and right paraspinal thoracic area. She 
does admit to nausea but denies vomiting. She denies any fevers, 
changes in vision, head trauma, difficulty breathing, weakness 
in her legs, paresthesias in her legs, incontinence, or saddle
anesthesia. No IVDU or history of cancer.
 
Past Medical History:
Depression
Concussion
Migraine
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAM
---------------
VITALS: 98.3 109 / ___
GENERAL: A&O x3, in NAD
HEENT: PERRL, EOMI. MMM.
NECK: TTP cervical paraspinal muscles, +meningismus
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: TTP length of spine, particularly T12 to L3, paraspinal
muscle tenderness
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm.  No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE EXAM
---------------
___ 0705 Temp: 97.5 PO BP: 106/73 HR: 61 RR: 18 O2 sat: 98%
O2 delivery: RA 
General: alert, oriented, no acute distress  
Eyes: Sclera anicteric, PERRLA, photophobia
HEENT: MMM, oropharynx clear  
Neck: supple, no LAD  
Resp: clear to auscultation bilaterally, no wheezes, rales,
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
GI: soft, non-tender, non-distended, bowel sounds present, no
rebound tenderness or guarding, no organomegaly  
MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema. Lumbar spine not tender to palpation. 
Neuro: CNs2-12 intact, motor function grossly normal, strength
___ upper and lower extremities bilaterally
  
 
Pertinent Results:
ADMISSION LABS
--------------
___ 03:00PM   NEUTS-57.4 ___ MONOS-7.5 EOS-1.5 
BASOS-0.6 IM ___ AbsNeut-2.97 AbsLymp-1.69 AbsMono-0.39 
AbsEos-0.08 AbsBaso-0.03
___ 03:00PM   WBC-5.2 RBC-4.30 HGB-12.2 HCT-39.3 MCV-91 
MCH-28.4 MCHC-31.0* RDW-13.2 RDWSD-44.6
___ 06:57PM CEREBROSPINAL FLUID (CSF)  TNC-84* RBC-0 
POLYS-1 ___ ___ 06:57PM CEREBROSPINAL FLUID (CSF)  PROTEIN-53* 
GLUCOSE-49

INTERVAL LABS
--------------
HSV PCR negative
Lyme IgM/IgG negative
CSF Bacterial Cultures NGTD, final results pending, no growth to 
date 

DISCHARGE LABS
---------------
___ 06:20AM BLOOD WBC-5.4 RBC-4.25 Hgb-12.4 Hct-38.9 MCV-92 
MCH-29.2 MCHC-31.9* RDW-13.2 RDWSD-44.4 Plt ___
___ 05:33AM BLOOD Glucose-91 UreaN-11 Creat-0.7 Na-143 
K-4.3 Cl-104 HCO3-26 AnGap-13

IMAGING
--------
-___ CT Head w/o contrast
No acute intracranial abnormality.

-___ Lumbosacral spine x-ray
There are five non-rib-bearing lumbar type vertebral bodies.  No 
compression deformities or abnormal ___ or ___ is 
seen.  Intervertebral disc spaces are relatively preserved.  The 
spinous processes are unremarkable, including the L2 spinous 
process.  Visualized portions of the hip and sacroiliac joints 
are normal.  There is normal osseous mineralization.  No focal 
lytic or blastic lesions are noted.
 
Brief Hospital Course:
Patient is a ___ F with history of migraines and depression who 
presents with back pain, nausea, neck pain with CSF consistent 
with aseptic meningitis of likely viral etiology.

ACUTE ISSUES
-------------
#Aseptic meningitis
#Back pain
Constellation of symptoms and CSF showing elevated WBC count 
with lymphocytic predominance concerning for aseptic meningitis. 
CSF not consistent with bacterial meningitis and very low 
suspicion of fungal, syphilis or autoimmune cause. Etiology most 
likely viral (adenovirus, echovirus, etc...). Some concern for 
NSAID induced meningitis, however would expect to see greater 
PMN-predominance in CSF. Low concern for HSV meningitis given 
patient history, but patient was treated empirically with 
acyclovir for 2 days until HSV PCR resulted negative. Lyme 
serology also negative. Patient treated for pain, nausea and 
muscle spasms in back. 

CHRONIC ISSUES
---------------
Depression - continued home escitalopram

TRANSITIONAL ISSUES
-------------------- 
[] Follow-up with primary care
[] Follow-up final CSF bacterial culture, prelim no growth after 
5 days in hospital 
[] Rx provided for short course of diazepam. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 20 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Diazepam 5 mg PO Q6H prn 
Do not drive or operate and machinery, or use alcohol while 
taking this medication.  
RX *diazepam 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*10 Tablet Refills:*0 
3.  Naproxen 500 mg PO Q12H 
4.  Escitalopram Oxalate 20 mg PO   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Aseptic meningitis

SECONDARY DIAGNOSIS
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

It was a pleasure taking part in your care here at ___! 
 
Why was I admitted to the hospital?  

- You were admitted for head, back and neck pain due to aseptic 
meningitis.

What was done for me while I was in the hospital?  
- While you were in the Emergency Department you had a CT scan 
of your head which did not show any bleed. You had a lumbar 
puncture to look at your spinal fluid which showed concern for a 
meningitis without bacteria. 
- You received pain and nausea medication, as well as medication 
to decrease back muscle spasms.
- You had an x-ray taken of your back because you had spine 
pain. The x-ray did not show any fracture or other abnormality. 
- You had lab testing sent for HSV which was negative and lyme 
disease which is negative.
- You were initially started on a medication called acyclovir 
for HSV meningitis treatment, which was stopped when your HSV 
testing came back negative.

What should I do when I leave the hospital?  
- You can take Tylenol ___ every 6 hours (maximum 4 times per 
day) and naproxen 500mg every 12 hours (twice per day) for pain 
as needed. You can also take diazepam (valium) 5mg every 6 hours 
as needed for muscle spasms. Please check in with your primary 
care provider if you need refills of prescriptions. 
-Please go to your follow up appointments as scheduled in the 
discharge papers. Most of them already have a specific date & 
time set. If there is no specific time specified, and you do not 
hear from their office in ___ business days, please contact the 
office to schedule an appointment.  
- Please monitor for new/or worsening symptoms including 
fever/shaking chills, confusion, increasing neck stiffness, 
inability to walk, numbness. If you do not feel like you are 
getting better or have any other concerns, please call your 
doctor to discuss or return to the emergency room.  
- Please note any new medications in your discharge worksheet  
- Your appointments are as below  

Sincerely,  

Your ___ Care Team  

 
Followup Instructions:
___